US06489344B1
[4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl](2-{[5-(trifluoromethyl)(2-pyridyl)]amino}ethyl)amine was prepared from 2-chloro-5-(trifluoromethyl)pyridine using the general method for 6-[(2-{[4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amino}ethyl)amino]pyridine-3-carbonitrile.

reactant | 2-chloro-5-(trifluoromethyl)pyridine | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | 6-[(2-{[4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amino}ethyl)amino]pyridine-3-carbonitrile | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=C(N1)C)NCCNC1=CC=C(C=N1)C#N | C22H18Cl2N8
product | [4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl](2-{[5-(trifluoromethyl)(2-pyridyl)]amino}ethyl)amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=C(N1)C)NCCNC1=NC=C(C=C1)C(F)(F)F | C22H18Cl2F3N7
